US08404676B2
Step 2: methyl 4-(4-methyl-3-thienyl)-3-(trifluoromethyl)benzoate
A mixture of methyl 4-bromo-3-(trifluoromethyl)benzoate (3.5 g; 12.4 mmol; 1 eq.), 4-methyl-3-thiopheneboronic acid (1.93 g; 13.6 mmol; 1.1 eq.), potassium carbonate (8.54 g; 61.8 mmol; 5 eq.) and Pd(PPh3)4 (1.43 g; 1.24 mmol; 0.1 eq.) in toluene (17.5 mL) and water (17.5 mL) was refluxed for 24 h whereupon 4-methyl-3-thiopheneboronic acid (0.88 g; 6.2 mmol; 0.5 eq.) was added. The reaction mixture was stirred for a further 3 hours then cooled down to room temperature and filtered through a pad of Celite® which was washed with toluene (200 mL). The filtrate was concentrated in vacuo and the residue taken up in ethyl acetate (300 mL). The organic layer was washed with sat. aq. NaHCO3 (100 mL), water (100 mL) and brine (100 mL), dried over magnesium sulphate and concentrated in vacuo to afford the title compound (3 g, 81%) as a brown oil.

reactant | methyl 4-bromo-3-(trifluoromethyl)benzoate | 12.4 mmol, 3.5 g, 1 eq. | BrC1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C9H6BrF3O2
reactant | 4-methyl-3-thiopheneboronic acid | 13.6 mmol, 1.93 g, 1.1 eq. | CC=1C(=CSC1)B(O)O | C5H7BO2S
reactant | potassium carbonate | 61.8 mmol, 8.54 g, 5 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methyl-3-thiopheneboronic acid | 6.2 mmol, 0.88 g, 0.5 eq. | CC=1C(=CSC1)B(O)O | C5H7BO2S
solvent | toluene | 17.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 17.5 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.24 mmol, 1.43 g, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-(4-methyl-3-thienyl)-3-(trifluoromethyl)benzoate | 3 g, 81% | CC=1C(=CSC1)C1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C14H11F3O2S
